US05574042
To a solution of 3-bromo-8-[2,6-dichloro-3-(N-glycoloyl-N-methylamino) benzyloxy]-2-methylimidazo[1,2-a]pyridine (700 mg) and triethylamine (269 mg) in methylene chloride (14 ml) was added mesyl chloride (224 mg) under ice-cooling, and the mixture was stirred for 1 hour at ambient temperature. The reaction mixture was washed with water twice and brine, dried over magnesium sulfate and concentrated in vacuo to give the residue of 3-bromo-8-[2,6-dichloro-3-(N-mesyloxyacetyl-N-methylamino)benzyloxy]-2-methylimidazo[1,2-a]pyridine. The residue was dissolved in N,N-dimethylformamide (7 ml) and potassium phthalimide (362 mg) was added thereto at ambient temperature under N2 atmosphere. The mixture was stirred for 1 day, and water was added thereto. The precipitate was collected by filtration and dried to give 3-bromo-8-[2,6-dichloro-3-(N-methyl-N-phthalimidoacetylamino)benzyloxy]-2-methylimidazo[1,2-a]pyridine (629 mg).

reactant | 3-bromo-8-[2,6-dichloro-3-(N-glycoloyl-N-methylamino) benzyloxy]-2-methylimidazo[1,2-a]pyridine | 700 mg | BrC1=C(N=C2N1C=CC=C2OCC2=C(C(=CC=C2Cl)N(C)C(CO)=O)Cl)C | C18H16BrCl2N3O3
reactant | triethylamine | 269 mg | C(C)N(CC)CC | C6H15N
reactant | mesyl chloride | 224 mg | S(=O)(=O)(C)Cl | CH3ClO2S
solvent | methylene chloride | 14 ml | C(Cl)Cl | CH2Cl2
product | 3-bromo-8-[2,6-dichloro-3-(N-mesyloxyacetyl-N-methylamino)benzyloxy]-2-methylimidazo[1,2-a]pyridine | BrC1=C(N=C2N1C=CC=C2OCC2=C(C(=CC=C2Cl)N(C)C(COS(=O)(=O)C)=O)Cl)C | C19H18BrCl2N3O5S
